US06939874B2
A mixture of 1-(2-chloroethoxy)-2,3-dimethoxy-5-nitrobenzene (1.382 g, 5.28 mmol), K2CO3 (1.83 g, 13.2 mmol), and N-methylpiperazine (1.76 mL, 15.85 mmol) was stirred and heated under N2 in CH3CN (20 mL) under reflux overnight. The next day 0.80 g K2CO3 and 0.66 mL piperazine were added (1.1 eq.) and heated for 3 h more when HPLC showed that the reaction was complete. The solids were filtered and washed well with CH3CN and the filtrate was evaporated at 80° C. to remove excess amine. The resulting red oil was dissolved in CH2Cl2 and washed with water. The aqueous layer was washed with CH2Cl2. The combined organic layers were dried and evaporated giving 2,3-dimethoxy-1-(2-(4-methylpiperazin-1-yl)ethoxy)-5-nitrobenzene.

reactant | 1-(2-chloroethoxy)-2,3-dimethoxy-5-nitrobenzene | 5.28 mmol, 1.382 g | ClCCOC1=C(C(=CC(=C1)[N+](=O)[O-])OC)OC | C10H12ClNO5
reactant | K2CO3 | 13.2 mmol, 1.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methylpiperazine | 15.85 mmol, 1.76 mL | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 0.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | piperazine | 0.66 mL | N1CCNCC1 | C4H10N2
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 2,3-dimethoxy-1-(2-(4-methylpiperazin-1-yl)ethoxy)-5-nitrobenzene | COC1=C(C=C(C=C1OC)[N+](=O)[O-])OCCN1CCN(CC1)C | C15H23N3O5
